US08217168B2
6-(2-fluoro-3-pyridinyl)-2-(3-{1-methyl-5-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}propyl)-1,2,4-triazine-3,5(2H,4H)-dione (E11, 14 mg, 0.029 mmol) was dissolved in 2 mL of DCM and treated with HCl 1.25M in MeOH (2.2 eq) to form 6-(2-fluoro-3-pyridinyl)-2-(3-{1-methyl-5-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}propyl)-1,2,4-triazine-3,5(2H,4H)-dione dihydrochloride salt (Enantiomer 2) (E12, 15.7 mg, 0.028 mmol).

reactant | 6-(2-fluoro-3-pyridinyl)-2-(3-{1-methyl-5-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}propyl)-1,2,4-triazine-3,5(2H,4H)-dione | 0.029 mmol, 14 mg | FC1=NC=CC=C1C=1C(NC(N(N1)CCCN1CC2(CC2(C1)C1=CC=C(C=C1)C(F)(F)F)C)=O)=O | C24H23F4N5O2
reactant | HCl | 1.25M | Cl | ClH
reactant | MeOH | 2.2 eq | CO | CH4O
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | 6-(2-fluoro-3-pyridinyl)-2-(3-{1-methyl-5-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}propyl)-1,2,4-triazine-3,5(2H,4H)-dione dihydrochloride salt | 0.028 mmol, 15.7 mg | Cl.Cl.FC1=NC=CC=C1C=1C(NC(N(N1)CCCN1CC2(CC2(C1)C1=CC=C(C=C1)C(F)(F)F)C)=O)=O | InChI=1S/C24H23F4N5O2.2ClH/c1-22-12-23(22,15-5-7-16(8-6-15)24(26,27)28)14-32(13-22)10-3-11-33-21(35)30-20(34)18(31-33)17-4-2-9-29-19(17)25;;/h2,4-9H,3,10-14H2,1H3,(H,30,34,35);2*1H
